US04808645
2,4,8,10-Tetra-tert-butyl-6-[1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yloxy]-12-methyl-12H-dibenzo[d,g][1,3,2]-dioxaphosphocin
The above-named compound is prepared using the general procedure of Example 1 by reacting 4.4 ml of phosphorous trichloride, 21.94 grams of 2,2'-ethylidenebis(4,6-di-tert-butylphenol), 19.3 ml of triethylamine and 6.68 grams of 1,4-dihydroxy-2,2,6,6-tetramethylpiperidine.

reactant | phosphorous trichloride | 4.4 ml | P(Cl)(Cl)Cl | Cl3P
reactant | 2,2'-ethylidenebis(4,6-di-tert-butylphenol) | 21.94 grams | C(C)(C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C30H46O2
reactant | 1,4-dihydroxy-2,2,6,6-tetramethylpiperidine | 6.68 grams | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
solvent | triethylamine | 19.3 ml | C(C)N(CC)CC | C6H15N
product | 2,4,8,10-Tetra-tert-butyl-6-[1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yloxy]-12-methyl-12H-dibenzo[d,g][1,3,2]-dioxaphosphocin | C(C)(C)(C)C1=CC2=C(OP(OC3=C(C2C)C=C(C=C3C(C)(C)C)C(C)(C)C)OC3CC(N(C(C3)(C)C)O)(C)C)C(=C1)C(C)(C)C | C39H62NO4P
